US04749813
330 g of 2-nitro-5-isopropylbenzotrifluoride in 1,200 ml of methanol are initially introduced into a hydrogenation apparatus, and 30 g of Raney nickel are added. After the system has been flushed with hydrogen, a hydrogenation is carried out at 25°-45° C. under a pressure of 30 bar of hydrogen. After the hydrogen absorption is complete, the solution is filtered to separate off the catalyst. After the solvent has been distilled off, the product is distilled. 280 g of 2-amino-5-isopropylbenzotrifluoride (boiling point: 95°-8° C./18 mbar, nD20 : 1.4810) are obtained.

reactant | 2-nitro-5-isopropylbenzotrifluoride | 330 g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)C)C(F)(F)F | C10H10F3NO2
solvent | methanol | 1,200 ml | CO | CH4O
catalyst | Raney nickel | 30 g | [Ni] | Ni
product | 2-amino-5-isopropylbenzotrifluoride | 280 g | NC1=C(C=C(C=C1)C(C)C)C(F)(F)F | C10H12F3N
